US04892961
A mixture of 3-benzoyloxy-2-methylpropanol (369 mg; 1.9 mmol), dihydropyran (273 mg; 3.25 mmol) and pyridinium p-toluenesulfonate (50 mg; 0.2 mmol) in anhydrous dichloromethane (10 ml) was stirred at room temperature for 2 hours. Dihydropyran (200 mg; 2.38 mmol) and pyridinium p-toluenesulfonate (50 mg; 0.2 mmol) were further added thereto, and the resultant mixture was stirred for 3 hours. Ether (50 ml) was added to the reaction mixture, which was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residue was purified by TLC using a mixture of ethyl acetate and benzene (1:4) to give 1-benzoyloxy-2-methyl-3-tetrahydropyranyloxypropane (466.3 mg; yield, 88%).

reactant | 3-benzoyloxy-2-methylpropanol | 1.9 mmol, 369 mg | C(C1=CC=CC=C1)(=O)OCC(CO)C | C11H14O3
reactant | dihydropyran | 3.25 mmol, 273 mg | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.2 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | Dihydropyran | 2.38 mmol, 200 mg | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.2 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | Ether | 50 ml | CCOCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-benzoyloxy-2-methyl-3-tetrahydropyranyloxypropane | 466.3 mg, 88% | C(C1=CC=CC=C1)(=O)OCC(COC1OCCCC1)C | C16H22O4
